US07253174B2
Synthesis of 3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methylamino-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide
3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methanesulfonyl-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide (44 mg, 0.1 mmol) and methylamine (1 mL, 1M in THF) were mixed in p-dioxane (1 mL) in a sealed tube. The mixture was heated to 80° C. for overnight. The solvent was removed in vacuo, and the product (23 mg) was purified by the silica gel column chromatography. MS (m/z): 396 (M+H).

reactant | 3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methanesulfonyl-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 0.1 mmol, 44 mg | C(#N)C=1C(=NC(=NC1N(C)CC(C)(C)C)S(=O)(=O)C)NC=1C=C(C(=O)NC)C=CC1C | C21H28N6O3S
reactant | methylamine | 1M, 1 mL | CN | CH5N
solvent | p-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methylamino-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | C(#N)C=1C(=NC(=NC1N(C)CC(C)(C)C)NC)NC=1C=C(C(=O)NC)C=CC1C | C21H29N7O
